US04081440
A mixture of 4.855 gms. (10 mmol.) of p-nitrobenzyl 6-phenoxyacetamido-2,2-dimethylpenam-3-carboxylate, 16.94 gms. (80 mmol.) of 2,2,2-trichloroethyl chloroformate, 18 ml. of N,O-(bis-trimethylsilyl)trifluoromethylacetamide, and 20ml. of methylene chloride was prepared. The mixture was permitted to stand at room temperature overnight. The mixture then was heated at reflux for 7 hours after which it was again permitted to stand at room temperature overnight. Heating then was continued for an additional 6 hours. The mixture then was evaporated to a residue, and the residue was dissolved in benzene which then was added to a large excess of heptane. The resulting insoluble material was filtered off, dissolved in benzene, and chromatographed over silica gel using a benzene-ethyl acetate elution gradient. p-Nitrobenzyl 6-[N-(phenoxyacetyl)-N-(2,2,2-trichloroethoxycarbonyl)amino]-2,2-dimethylpenam-3-carboxylate (4.76 gms.; 72 percent) was obtained as product.

reactant | p-nitrobenzyl 6-phenoxyacetamido-2,2-dimethylpenam-3-carboxylate | 10 mmol | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(S2)(C)C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C23H23N3O7S
reactant | 2,2,2-trichloroethyl chloroformate | 80 mmol | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | p-Nitrobenzyl 6-[N-(phenoxyacetyl)-N-(2,2,2-trichloroethoxycarbonyl)amino]-2,2-dimethylpenam-3-carboxylate | 4.76 gms, 72 percent | O(C1=CC=CC=C1)CC(=O)N(C(=O)OCC(Cl)(Cl)Cl)C1[C@@H]2N(C(C(S2)(C)C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C26H24Cl3N3O9S
